US07629357B2
a. (R)-2-[(6-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl-amino]-propionic acid methyl ester
6-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid, 0.33 g, was coupled with D-Alanine methyl ester hydrochloride, 0.150 g, analogously to Example A-1 a). 0.205 g of off-white, solid product were obtained, MS-(+)-ion, M+1=415.0 amu.

reactant | 6-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid | C(C1=CC=CC=C1)OC=1C=C2C(=C(N=C(C2=CC1)Cl)C(=O)O)O | C17H12ClNO4
reactant | D-Alanine methyl ester hydrochloride | Cl.COC([C@H](N)C)=O
product | (6-Benzyloxy-1-chloro-4-hydroxy-isoquinoline-3-carbonyl-amino]-propionic acid methyl ester | COC(C(C)NC(=O)C=1N=C(C2=CC=C(C=C2C1O)OCC1=CC=CC=C1)Cl)=O | C21H19ClN2O5
